US07674912B2
4b: Piperidine-4-carboxylic acid 2-[(E/Z)-3-chloro-4-(3-ethyl-hexanoylamino-benzoylimino]-thiazol-3-ylmethyl ester hydrochloride:
Prepared from 3-chloro-4-(2-cyclopentyl-acetylamino)-N-thiazol-2-yl-benzamide and piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-chloromethyl ester followed by deprotection.

reactant | 3-chloro-4-(2-cyclopentyl-acetylamino)-N-thiazol-2-yl-benzamide | ClC=1C=C(C(=O)NC=2SC=CN2)C=CC1NC(CC1CCCC1)=O | C17H18ClN3O2S
reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-chloromethyl ester | ClCOC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H20ClNO4
product | Piperidine-4-carboxylic acid | N1CCC(CC1)C(=O)O | C6H11NO2
